US05571828
Ethyl 3-[4-(6-Fluoro-1,2-benzisothiazol-3-yl)-1-piperidinyl]propionate hydrochloride
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisothiazole (6.0 g, 25 mmol), ethyl 3-bromopropionate (4.5 g, 25 mmol), K2CO 3 (3.5 g) and CH3CN (100 ml) was stirred and refluxed for 16 hours. The reaction was poured into H2O, and after extractive workup with EtOAc, 6.0 g of an orange oil was realized. The oil was dissolved in Et2O and ethereal HCl was added to precipitate 6.3 g of a white hydrochloride salt. The salt was recrystallized from CH3CN to yield 6.0 g (64%) of the desired compound. An analytical sample was obtained by recrystallization of a 1.0 g sample from EtOH-Et2O to yield 0.8 g of a white solid, m.p.=197°-199° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisothiazole | 25 mmol, 6.0 g | FC1=CC2=C(C(=NS2)C2CCNCC2)C=C1 | C12H13FN2S
reactant | ethyl 3-bromopropionate | 25 mmol, 4.5 g | BrCCC(=O)OCC | C5H9BrO2
reactant | CH3CN | 100 ml | CC#N | C2H3N
reactant | HCl | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | Ethyl 3-[4-(6-Fluoro-1,2-benzisothiazol-3-yl)-1-piperidinyl]propionate hydrochloride | 6.0 g, 64% | Cl.FC1=CC2=C(C(=NS2)C2CCN(CC2)CCC(=O)OCC)C=C1 | InChI=1S/C17H21FN2O2S.ClH/c1-2-22-16(21)7-10-20-8-5-12(6-9-20)17-14-4-3-13(18)11-15(14)23-19-17;/h3-4,11-12H,2,5-10H2,1H3;1H
